US05801271
Synthesis of methyl 7-(N-t-butoxycarbonylamino)-3-oxo-2-phenylheptanoate
The target compound was prepared as a pale yellow oil in an amount 7.7 g at a yield of 95.7% in the same manner as in Example 1 except that 5.0 g (23 mmol) of 5-(N-t-butoxycarbonylamino)pentanoic acid instead of 5-(N-benzyloxycarbonylamino)pentanoic acid was dissolved in 25 ml of THF and 4.1 g (25.3 mmol) of CDI was added; 9.05 ml (69 mmol) of diisopropylamine and 25 ml of THF were added and 42 ml (69 mmol) of 1.63N BA solution was added dropwise; 10.4 g (69 mmol) of methyl phenylacetate was dissolved in 25 ml of THF; and 30 ml of saturated aqueous ammonium chloride solution was added to the reaction solution, the reaction was terminated, 50 g of 4N hydrochloric acid was added, and 100 ml of ethyl acetate was further added. The analytical results on the target compound are given below.

reactant | 5-(N-t-butoxycarbonylamino)pentanoic acid | 23 mmol, 5.0 g | C(C)(C)(C)OC(=O)NCCCCC(=O)O | C10H19NO4
reactant | CDI | 25.3 mmol, 4.1 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | diisopropylamine | 69 mmol, 9.05 ml | C(C)(C)NC(C)C | C6H15N
reactant | methyl phenylacetate | 69 mmol, 10.4 g | C1(=CC=CC=C1)CC(=O)OC | C9H10O2
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | methyl 7-(N-t-butoxycarbonylamino)-3-oxo-2-phenylheptanoate | yield of 95.7% | C(C)(C)(C)OC(=O)NCCCCC(C(C(=O)OC)C1=CC=CC=C1)=O | C19H27NO5
